US04002750
2-Carboxy-5-methylpyrazine (9.7 g) in dry dioxan (114 ml) and tributylamine (17.7 ml) was treated with ethyl chloroformate (7.5 ml), keeping the temperature at 0°-5° C. After ten minutes, dioxan (190 ml) saturated with ammonia was added. The mixture was stirred for 3 hours at room temperature, then dioxan was distilled off, and the residue was taken up in saturated aqueous sodium bicarbonate (20 ml). The mixture was filtered and the product washed with water to give 2-carbamoyl-5-methylpyrazine (9.2 g), m.p. 204°- 206° C. This amide (7 g) in glacial acetic acid (30 ml) and 35% hydrogen peroxide (20 ml.) was heated with stirring at 70° C for 7 hours. The reaction mixture was cooled, the product which separated was filtered and washed with water to give 2-carbamoyl-5-methylpyrazine 4-oxide (5.5 g), m.p. 206°- 208° C.

reactant | 2-Carboxy-5-methylpyrazine | 9.7 g | C(=O)(O)C1=NC=C(N=C1)C | C6H6N2O2
reactant | ethyl chloroformate | 7.5 ml | ClC(=O)OCC | C3H5ClO2
reactant | ammonia | N | H3N
solvent | dioxan | 114 ml | O1CCOCC1 | C4H8O2
solvent | tributylamine | 17.7 ml | C(CCC)N(CCCC)CCCC | C12H27N
solvent | dioxan | 190 ml | O1CCOCC1 | C4H8O2
product | 2-carbamoyl-5-methylpyrazine | 9.2 g | C(N)(=O)C1=NC=C(N=C1)C | C6H7N3O
